US09216999B2
rac-4-{[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde
rac-4-{[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]amino}-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (118 mg, 0.338 mmol) in N,N-dimethylformamide (3 mL) was cooled to 0° C. and stirred with sodium hydride (55 wt % dispersion in mineral oil, 126 mg, 0.586 mmol) for 30 minutes and then with [2-(chloromethoxy)ethyl]trimethylsilane (104 μL. 0.586 mmol) at room temperature for one day. After addition of water, the reaction mixture was extracted with chloroform, and the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1 (v/v)) to give the title compound as a brown oil (67.5 mg, yield 42%).

reactant | rac-4-{[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]amino}-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 0.338 mmol, 118 mg | C(C1=CC=CC=C1)N1C[C@@H]([C@@H](CC1)C)NC1=C2C(=NC=C1C=O)NC=C2 | C21H24N4O
reactant | sodium hydride | 0.586 mmol, 126 mg | [H-].[Na+]
reactant | [2-(chloromethoxy)ethyl]trimethylsilane | 0.586 mmol, 104 μL | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | rac-4-{[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 67.5 mg, yield 42% | C(C1=CC=CC=C1)N1C[C@@H]([C@@H](CC1)C)NC1=C2C(=NC=C1C=O)N(C=C2)COCC[Si](C)(C)C | C27H38N4O2Si
